US04242507
N-Hydroxysuccinimide (11.5 g) and triethylamine (14.0 ml) are suspended into a mixture of benzene (100 ml) and dioxane (50 ml), and thereto is added dropwise a solution of methanesulfonyl chloride (7.8 ml) in benzene (20 ml) with stirring under ice-cooling and the mixture is stirred for 1 hour. After allowing to stand overnight, the solvent is distilled off. To the residue is added water and the resulting crystals are separated by filtration, washed with water and dried to give N-methanesulfonyloxysuccinimide (6.3 g), melting point: 148°-150° C. The product is recrystallized from ethyl acetate-petroleum ether to give crystals having a melting point of 150°-152° C.

reactant | N-Hydroxysuccinimide | 11.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 14.0 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | methanesulfonyl chloride | 7.8 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-methanesulfonyloxysuccinimide | 6.3 g | CS(=O)(=O)ON1C(CCC1=O)=O | C5H7NO5S
